US09402395B2
N-[2-bromo-6-chloro-4-(1,1,1,2,3,3,3-heptafluoro-prop-2-yl)phenyl]-2-fluoro-3-nitro-benzamide
In a dried 4.5 l reactor equipped with mechanical stirrer, thermometer, reflux condenser, 1 liter dropping funnel, under inert atmosphere, was dissolved 2-bromo-6-chloro-4-(1,1,1,2,3,3,3-heptafluoro-prop-2-yl)aniline (described in WO/10127926) (177 g, 0.473 mol, 1 equiv.) in anhydrous tetrahydrufurane (800 ml) at 20° C. Triethylamine (143 g, 1.418 mol, 3 equival.) and 4-dimethylaminopyridine (0.58 g, 4.73 mmol, 0.01 equiv.) were added. To the dark red solution was added, under stirring, a solution of 2-fluoro-3-nitro-benzoyl chloride (0.993 mol, 2.1 equiv.) in tetrahydrofurane (800 ml). After the addition, the orange suspension was heated with an oil bath to reflux temperature for four days. The reaction progression was monitored by LC-MS analysis of the reaction mixture. After almost complete conversion to the corresponding imide, the reaction mixture was concentrated under reduced pressure and the residue was taken up in dichloromethane (1 l) and carefully treated, under stirring, with a saturated aqueous solution of sodium hydrogenocarbonate (500 ml). After the gas evolution had ceased, the layers were separated and the organic layer was concentrated under reduced pressure. The residue was taken up in tetrahydrofurane (1 l) and treated with 2 N aqueous sodium hydroxide (470 ml, 0.94 mol, 2 equiv.) at 20° C. in order to hydrolyze the intermediate imide. The reaction was followed by LC-MS analysis. After 30 minutes, the reaction mixture was concentrated under reduced pressure and the resulting aqueous mixture was extracted with ethyl acetate (1 l). The aqueous phase was further extracted with three portions of ethyl acetate (200 ml each) and the combined organic extracts were dried over sodium sulfate and evaporated to dryness. The crude product was dissolved in methanol (1.5 l) at 50° C. Water (600 ml, at 50° C.) was added. A suspension formed, that was stirred until cooled to 20° C., then filtered. The residue was washed three times with 300 ml of a mixture of methanol/water:5/1. After drying, the titel compound was isolated as brown crystals with a melting point of 177-180° C.

reactant | 2-bromo-6-chloro-4-(1,1,1,2,3,3,3-heptafluoro-prop-2-yl)aniline | 0.473 mol, 177 g, 1 equiv. | BrC1=C(N)C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)Cl | C9H4BrClF7N
reactant | Triethylamine | 1.418 mol, 143 g | C(C)N(CC)CC | C6H15N
reactant | 2-fluoro-3-nitro-benzoyl chloride | 0.993 mol, 2.1 equiv. | FC1=C(C(=O)Cl)C=CC=C1[N+](=O)[O-] | C7H3ClFNO3
reactant | sodium hydroxide | 0.94 mol, 2 N, 470 ml, 2 equiv. | [OH-].[Na+]
catalyst | 4-dimethylaminopyridine | 4.73 mmol, 0.58 g, 0.01 equiv. | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofurane | 800 ml | O1CCCC1 | C4H8O
product | N-[2-bromo-6-chloro-4-(1,1,1,2,3,3,3-heptafluoro-prop-2-yl)phenyl]-2-fluoro-3-nitro-benzamide | BrC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)Cl)NC(C1=C(C(=CC=C1)[N+](=O)[O-])F)=O | C16H6BrClF8N2O3
